Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Inability to speak
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old man with history of transient palpitations
and hypertension not adherent to medications who presents from
___ for evaluation of acute onset aphasia. History
obtained by patient and sister at bedside with supplementation 
by
chart review.

Patient notes that he had a "normal" day today, going to several
bbqs and birthday parties. He was driving home at ___ and was
talking to his girlfriend over the phone when all of a sudden he
could not get any words out. He thinks he went for about ___
mintues without being able to produce any speech. He understood
that he could not talk and pulled over. Then he felt he could
start thinking a little clearly and started driving again,
slowly. He said he understood all the traffic signs on his way
home. When he got home, he noted that he still could not produce
all of the words he wanted to. Although he could produce some
words, they were not making sense in the context of the
conversation. He thus presented to OSH where NIHSS 1 for 
aphasia.
NCHCT was unrevealing and he was transferred to ___ for 
further
workup. 

Patient reports that by the time he got to ___, his words
continued to improve and he could recall and say the name of all
three of his sons, which he had trouble doing before. At the 
time
of my exam, he thinks his words are much better and notes that 
he
can almost speak in sentences. His sister at bedside agrees that
he is improving.

No recent blood clots, B signs. He does endorse transient
palpitations. His sister at one point thought he wore a holter
monitor, but the patient denies this. He is not adherent with 
any
medications because he was hoping to control his BP with life
style modifications.  

ROS: 
Positive for periodic palpitations. Remaining review of systems
negative. 
 
Past Medical History:
hypertension
obesity
? hyperlipidemia (not on medications)
 
Social History:
___
Family History:
Thyroid disease. No strokes, seizures, diabetes, auto-immune
conditions, hypercoagulable states. 
 
Physical Exam:
ADMISSION EXAM:

Vitals: T97.7, HR84, BP160/109, RR16, 98RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, date, situation.
Attentive to examiner and conversation. When asked to name ___
forward, he names them backwards without difficulty. Repetition
is impaired, cannot name "No ifs, ands, or buts." Can repeat
"today is a sunny day." Cannot tell me how many quarters are in
1.25, instead says "two quarters I have." Cannot tell me what 
2+2
is, instead he interprets "plus/add" as "multiply" and 
multiplies
digits as oppose to following summation task. Knows the cat 
hides
under the couch to escape the dog. Normal prosody. Several
paraphasic errors, perseverating on words from prior sentences.
Can name high but not low frequency objects (can not name watch
clasp, feather, hammock).  Able to read without difficulty. No
dysarthria. Able to follow both midline and appendicular
commands. Can follow two-step commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to finger wiggle.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS. 
No agraphasthesia.

-Reflexes: Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

LABORATORY DATA:
WBC 7.3, HgB 14.4, INR 1.2, BUN 22, Cr 0.9, AST/ALT: 34/64, Alk
Phos 54, Trop <0.01 
serum tox neg

EKG: NSR, PVCs (OSH EKG) 

IMAGING: 
CTA head and neck: on my read, no large vessel occlusion, no
large territory infarct, no mass effect, no hemorrhage. Left
distal M1 appears more narrow compared to right, although both
hemispheres are vascularized throughout. 

++++++++++++++++++++++++++++++++++++++++++++

DISCHARGE EXAM:
Physical Exam:
 Vitals: 
24 HR Data (last updated ___ @ 811)
    Temp: 98.1 (Tm 98.5), BP: 142/103 (126-176/79-120), HR: 92 
(81-128), RR: 18 (___), O2 sat: 96% (93-97), O2 delivery: RA  
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: Breathing comfortably, no tachypnea nor increased 
WOB
 Cardiac: skin warm, well-perfused. 
 Abdomen: soft, ND
 Extremities: Symmetric, no edema. 

Neurologic:
-Mental Status: Alert, oriented to self, date, situation.
Attentive to examiner and conversation. Repetition
is impaired, cannot name "No ifs, ands, or buts." Several
paraphasic errors, perseverating on words from prior sentences.
Can name high and low frequency objects (parts of the hands).  
Able to read with some difficulty. Intact comprehension. Unable 
to do simple calculations consistently. Able to write simple 
sentences but makes mistakes with more complex and longer 
sentences. No dysarthria. Able to follow both midline and 
appendicular commands. Able to follow two-step commands. No 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF intact to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements.

  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS. 
No agraphasthesia.

-Reflexes: Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

 
Pertinent Results:
___ 06:21AM BLOOD WBC-7.1 RBC-5.73 Hgb-15.3 Hct-46.7 MCV-82 
MCH-26.7 MCHC-32.8 RDW-13.7 RDWSD-39.5 Plt ___
___ 07:55AM BLOOD Neuts-60.2 ___ Monos-9.3 Eos-1.3 
Baso-0.2 Im ___ AbsNeut-3.63 AbsLymp-1.73 AbsMono-0.56 
AbsEos-0.08 AbsBaso-0.01
___ 12:56AM BLOOD WBC-7.3 RBC-5.31 Hgb-14.4 Hct-43.7 MCV-82 
MCH-27.1 MCHC-33.0 RDW-13.4 RDWSD-39.7 Plt ___
___ 06:21AM BLOOD Plt ___
___ 12:56AM BLOOD ___ PTT-29.9 ___
___ 06:21AM BLOOD Glucose-118* UreaN-12 Creat-0.9 Na-145 
K-4.5 Cl-105 HCO3-25 AnGap-15
___ 07:55AM BLOOD ALT-60* AST-25 LD(LDH)-243 CK(CPK)-60 
AlkPhos-53 TotBili-0.6
___ 12:56AM BLOOD ALT-64* AST-34 AlkPhos-54 TotBili-0.4
___ 07:55AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:21AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.1
___ 07:55AM BLOOD %HbA1c-5.7 eAG-117
___ 07:55AM BLOOD Triglyc-94 HDL-33* CHOL/HD-4.8 
LDLcalc-105 LDLmeas-110
___ 07:55AM BLOOD TSH-2.0
___ 12:56AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:26AM BLOOD Glucose-102 Na-143 K-3.9 Cl-103 
calHCO3-27

EXAMINATION:  CTA HEAD AND CTA NECK Q16 CT NECK 
  
INDICATION:  Suspected stroke with acute neurological deficit.// 
Please 
exclude ICH, signs of early ischemic stroke, large vessel 
occlusion, or other 
vascular abnormality. 
  
TECHNIQUE:  Contiguous MDCT axial images were obtained through 
the brain 
without contrast material. Subsequently, helically acquired 
rapid axial 
imaging was performed from the aortic arch through the brain 
during the 
infusion of intravenous contrast material. Three-dimensional 
angiographic 
volume rendered, curved reformatted and segmented images were 
generated on a 
dedicated workstation. This report is based on interpretation of 
all of these 
images. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 16.0 s, 16.0 cm; CTDIvol = 50.2 mGy 
(Head) DLP = 
802.7 mGy-cm. 
   2) Stationary Acquisition 0.5 s, 0.5 cm; CTDIvol = 5.4 mGy 
(Head) DLP = 2.7 
mGy-cm. 
   3) Stationary Acquisition 5.0 s, 0.5 cm; CTDIvol = 54.5 mGy 
(Head) DLP = 
27.2 mGy-cm. 
   4) Spiral Acquisition 5.6 s, 44.0 cm; CTDIvol = 32.0 mGy 
(Head) DLP = 
1,409.5 mGy-cm. 
 Total DLP (Head) = 2,242 mGy-cm. 
  
COMPARISON:  CT of the head dated ___ 
  
FINDINGS:  
  
CT HEAD WITHOUT CONTRAST: 
IMPRESSION:   
1. No acute intracranial abnormalities. 
2. Normal head and neck CTA. 
3. The main pulmonary artery is dilated with can be seen in the 
setting of 
pulmonary artery hypertension.

___: MRI Head
IMPRESSION:  
Acute infarction in the left temporooccipital lobe.  Additional 
areas of 
restricted diffusion along the left temporal cortex may 
represent additional 
areas of infarction, however findings may also be associated 
with seizure. 
 
___ TTE: 
The left atrial volume index is normal. No thrombus/mass is seen 
in the body of the left atrium (best excluded by TEE) The right 
atrium is mildly enlarged. There is no evidence of an atrial 
septal defect or patent foramen ovale by 2D/color Doppler or 
agitated saline at rest and with maneuversMild symmetric left 
ventricular hypertrophy with normal cavity size and regional/ 
global biventricular systolic function. Mild-moderate mitral 
regurgitation. No structural cardiac source of embolism 
(e.g.patent foramen ovale/atrial septal defect, intracardiac 
thrombus, or vegetation) seen.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with high blood pressure and 
unspecified history of palpitations who presented for acute 
aphasia. His neurologic exam was notable for grammatical with 
occasional word finding pauses and paraphasic errors, impaired 
repetition, and dysgraphia, but otherwise non-focal. MRA showed 
an acute infarction in the left temporooccipital lobe with 
additional areas of restricted diffusion along the left temporal 
cortex. Etiology was thought to be most likely cardioembolic 
given newly diagnosed atrial fibrillation. He was started on 
apixaban 5mg b.i.d. and metoprolol 25mg BID for newly diagnosed 
atrial fibrillation and atorvastatin 40mg daily for newly 
diagnosed hyperlipidemia. 

Transitional Issues: 
- PCP follow up for blood pressure management (goal: 
normotensive)
- Stroke risk factor optimization (obesity, potential sleep 
apnea, hypercholesterolemia, hypertension)

-------------------
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 110) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) () N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth bedtime Disp #*30 
Tablet Refills:*3 
3.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
4.  Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Stroke - 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

 You were hospitalized due to symptoms of inability to speak 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 1) Pre-Diabetes Mellitus: A1c 5.7% (new diagnosis) 
 2) Atrial fibrillation (new diagnosis) 
 3) Hyperlipidemia: LDL 110 (new diagnosis) 
 4) Obesity  
 5) ? possible obstructive sleep apnea 
 An echocardiogram did ((not)) show a PFO on bubble study. 

 We are changing your medications as follows:  
 - Begin taking apixaban 5mg twice daily 
 - Begin taking atorvastatin 40mg once daily 

 Please take your other medications as prescribed.  

 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___